US06812236B2
1-Hexyl-3,4-dimethyl-4-(3-ethynylphenyl)piperidine
A solution of 1-hexyl-3,4-dimethyl-4-{3-[2-(trimethylsilyl)ethynyl]-phenyl}piperidine (Preparation 4, 150 mg, 0.40 mmol) in tetrahydrofuran (2 mL) was cooled to -70° C. and tetrabutylammonium fluoride (1.0 M in THF, 0.41 mL, 0.41 mmol) was added slowly. The reaction mixture was allowed to warm to room temperature gradually before being diluted with dichloromethane (10 mL) and water (10 mL). The phases were separated and the aqueous layer was further extracted with dichloromethane (2×10 mL). The combined organics were dried (Na2SO4) and the solvent evaporated in vacuo. The oily yellow residue was purified by column chromatography on silica gel (10 g) eluted with ethyl acetate:hexane 0.880 ammonia (10:89:1) to give the title compound as an oil (100 mg).

reactant | 1-hexyl-3,4-dimethyl-4-{3-[2-(trimethylsilyl)ethynyl]-phenyl}piperidine | 0.40 mmol, 150 mg | C(CCCCC)N1CC(C(CC1)(C1=CC(=CC=C1)C#C[Si](C)(C)C)C)C | C24H39NSi
reactant | tetrabutylammonium fluoride | 0.41 mmol, 1.0 M, 0.41 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | water | 10 mL | O | H2O
product | 1-Hexyl-3,4-dimethyl-4-(3-ethynylphenyl)piperidine | 100 mg | C(CCCCC)N1CC(C(CC1)(C1=CC(=CC=C1)C#C)C)C | C21H31N
